* source LAB4_1
M_M1         N14453 N14453 N14343 N14343 MbreakN  
+ L=2um  
+ W=52um         
M_M2         N14343 N14438 0 0 Mbreakn  
+ L=2um  
+ W=52um         
V_V1         N14453 0 3Vdc
M_M3         N14343 N14438 0 0 MbreakN  
+ L=2um  
+ W=52um         
V_V2         N14438 0  AC 0
+SIN 1 0.01 100Hz 0 0 0
