* source LAB4_2
M_M1         N14418 N14422 0 0 Mbreakn  
+ L=2um  
+ W=52um         
M_M2         N14418 N14418 N14429 N14429 Mbreakp  
+ L=2um  
+ W=5um         
V_V1         N14429 0 3Vdc
M_M3         N14418 N14418 N14429 N14429 MbreakP  
+ L=2um  
+ W=5um         
V_V2         N14422 0  AC 0
+SIN 0.9 0.01 100Hz 0 0 0
