* source LAB4
M_M1         N15161 N14444 0 0 MbreakN  
+ L=2um  
+ W=52um         
V_V1         N15132 0 3Vdc
M_M2         N15161 N15161 N15132 N15132 Mbreakp  
+ L=2um  
+ W=5um         
M_M3         0 N15161 N15132 N15132 Mbreakp  
+ L=2um  
+ W=5um         
V_V2         N14444 0  
+SIN 0.8 0.01 100 0 0 0
