* source HW2
V_V2         N14473 0  AC 0
+SIN 0 6 60 0 0 0
D_D1         N14473 N14480 Dbreak 
C_C1         0 N14480  0.000883  TC=0,0 
R_R1         0 N14480  1k TC=0,0 
