* source HW6
M_M1         N14438 N14426 0 0 Mbreakn  
+ L=2um  
+ W=51.99um         
M_M2         N14438 N14438 N14466 N14466 Mbreakp  
+ L=2um  
+ W=5um         
V_V2         N14466 0 5Vdc
V_V3         N14426 0  AC 0
+SIN 1v 1v 100Hz 0 0 0
