* source HW5_1
M_M1         N14430 N14371 0 0 Mbreakn  
+ L=2um  
+ W=68.54um         
R_R1         N14430 N143970  10k TC=0,0 
V_V2         N143970 0 5Vdc
V_V3         N14371 0  AC 0
+SIN 0.9v 1v 100Hz 0 0 0
