* source HW6_2
M_M1         N14440 N14409 N143150 N143150 Mbreakn  
+ L=2um  
+ W=200um         
R_R1         0 N143150  20k TC=0,0 
R_R2         N14440 N14490  100k TC=0,0 
V_V2         N14490 0 5Vdc
V_V3         N14409 0  AC 0
+SIN 1.2v 0.01v 100Hz 0 0 0
