* source HW7_1
M_M1         N14437 N14441 0 0 Mbreakn  
+ L=2um  
+ W=50um         
R_R1         N14437 N14430  10k TC=0,0 
V_V1         N14441 0 0Vdc
V_V2         N14430 0 5Vdc
