* source HW7_2
M_M1         N14451 N14444 0 0 Mbreakn  
+ L=2um  
+ W=50um         
R_R1         N14451 N14455  10k TC=0,0 
R_R2         0 N14451  2k TC=0,0 
V_V1         N14444 0 0Vdc
V_V2         N14455 0 5Vdc
