* source HW7_3
M_M1         N14645 N14675 0 0 Mbreakn  
+ L=2um  
+ W=50um         
V_V2         N14605 0 5Vdc
R_R2         0 N14653  2k TC=0,0 
R_R1         N14645 N14605  10k TC=0,0 
M_M2         N14653 N14985 0 0 MbreakN  
+ L=2um  
+ W=20um         
M_M3         N14898 N14645 N14653 N14653 Mbreakn  
+ L=2um  
+ W=20um         
V_V3         N14898 0 5Vdc
V_V4         N14985 0 1Vdc
V_V5         N14675 0  AC 0
+SIN 1v 1v 100Hz 0 0 0
