* source HW8_1
M_M1         N14527 N14400 0 0 Mbreakn  
+ L=2um  
+ W=20um         
V_V1         N14400 0 1.2Vdc
V_V2         N14393 0 0Vdc
M_M2         N14393 N14538 N14527 N14527 MbreakN  
+ L=2um  
+ W=100um         
V_V3         N14538 0 2.2Vdc
